US06984703B1
The alcohol is added to the suspension of CuSO4 in toluene. After 90 minutes at 110° C. the mixture is poured into water and extracted with ethyl ether. After washing the organic extracts to neutrality with water and anhydrifying on Na2SO4, the solvent is evaporated. 1.8 g of 4-methylene(2-indenyl)indene are obtained, after purification on a silica gel column (eluant: hexane/ethyl acetate=99/1).

reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | CuSO4 | [O-]S(=O)(=O)[O-].[Cu+2]
product | 4-methylene(2-indenyl)indene | 1.8 g | C=C1C2=CC=C(C2=CC=C1)C=1CC2=CC=CC=C2C1 | C19H14
